US09029391B2
Methyl 2-[4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl]-4-methyl-4-pentenoate
A solution of methyl 2-(4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)acetate (60 mg, 0.179 mmol) in tetrahydrofuran (THF) (2 mL) was treated with LiHMDS (0.447 mL, 0.447 mmol, 1.0M in THF) and 3-bromo-2-methylpropene (0.271 mL, 2.68 mmol) at 0° C. The mixture was stirred at room temperature for 1 hour and then quenched with saturated NH4Cl solution. The mixture was extracted with ethyl acetate, washed with saturated NaHCO3 and brine, dried over Na2SO4, filtered and concentrated. The residue was used crude in the next step (65 mg, 94%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.43-8.56 (m, 1 H) 7.40-7.57 (m, 2 H) 7.09-7.20 (m, 1 H) 6.95-7.08 (m, 2 H) 6.78-6.86 (m, 1 H) 4.68-4.75 (m, 1 H) 4.44-4.54 (m, 1 H) 3.91-4.03 (m, 1 H) 3.68 (s, 3 H) 3.53 (s, 3 H) 2.40 (br. s., 3 H) 2.04 (s, 3 H) 1.59-1.68 (m, 2 H) 1.49 (br. s., 3 H). LC/MS (m/z) ES+=390 (M+1).

reactant | methyl 2-(4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)acetate | 0.179 mmol, 60 mg | CC1=C(C=CC(=C1)C)C1=C(N(C(C2=CC=CC=C12)=O)C)CC(=O)OC | C21H21NO3
reactant | LiHMDS | 0.447 mmol, 1.0M, 0.447 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 3-bromo-2-methylpropene | 2.68 mmol, 0.271 mL | BrCC(=C)C | C4H7Br
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | Methyl 2-[4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl]-4-methyl-4-pentenoate | CC1=C(C=CC(=C1)C)C1=C(N(C(C2=CC=CC=C12)=O)C)C(C(=O)OC)CC(=C)C | C25H27NO3
